US04561862
Synthesis of 3-Methyl-1-nitro-2-hexene
3-Methyl-1-hexene (22.2 mL, 0.15 moles) was mixed with concentrated nitric acid (18 mL, 0.28 moles) at room temperature. With rapid stirring the solution was heated to 65° C. for 3 hours. The heat was removed and the solution stirred an additional 30 min. The organic layer was separated and washed with a saturated sodium chloride solution (3×15 mL) then dried over magnesium sulfate. Vacuum distillation (20 Torr, 28° C.) removed unreacted 3-methyl-1-hexene. A yellow oil remained. Gas chromatography and IR spectroscopy indicate both cis- and trans-3-methyl-1-nitro-2-hexene are present along with a small amount of 1-nitro-2-hexanol. These structures were confirmed by IR and GC analysis.

reactant | 3-Methyl-1-hexene | 0.15 moles, 22.2 mL | CC(C=C)CCC | C7H14
reactant | nitric acid | 0.28 moles, 18 mL | [N+](=O)(O)[O-] | HNO3
product | 3-Methyl-1-nitro-2-hexene | CC(=CC[N+](=O)[O-])CCC | C7H13NO2
